US04767769
Borane dimethyl sulphide (45 ml) was added dropwise to a stirred solution of 3-methoxyphenylacetonitrile (32.4 g) in dry tetrahydrofuran (150 ml) under nitrogen. The solution was heated under reflux for 2 hours and was then cooled to 0° C. The solution was stirred under nitrogen at 0° C. as water (74 ml) was added, followed by concentrated hydrochloric acid (149 ml) dropwise over 1 hour. The cloudy solution was heated on a steam bath for 4 hours and then allowed to cool to room temperature. The suspension was diluted with 5N hydrochloric acid (30 ml) and the acidic mixture was washed with ether then basified with 5N sodium hydroxide and extracted with ether. The extracts were washed with water, dried and evaporated to yield a residue which was dissolved in dry ether (50 ml). A saturated solution of hydrogen chloride in ethanol (30 ml) was added followed by more dry ether (150 ml) and the mixture was cooled to 0° C. to yield 2-(3-methoxyphenyl)ethylamine hydrochloride (m.p. 121°-123° C.). The hydrochloride (27.3 g) was dissolved in 5N sodium hydroxide (100 ml) and extracted with ether. The extracts were washed with water (50 ml) and dried. The solvent was removed by evaporation to give the free base.

reactant | Borane dimethyl sulphide | 45 ml | CSC.B
reactant | 3-methoxyphenylacetonitrile | 32.4 g | COC=1C=C(C=CC1)CC#N | C9H9NO
reactant | water | 74 ml | O | H2O
reactant | hydrochloric acid | 5N, 30 ml | Cl | ClH
reactant | hydrochloric acid | 149 ml | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 2-(3-methoxyphenyl)ethylamine hydrochloride | Cl.COC=1C=C(C=CC1)CCN | InChI=1S/C9H13NO.ClH/c1-11-9-4-2-3-8(7-9)5-6-10;/h2-4,7H,5-6,10H2,1H3;1H
